US08957214B2
N-[(6-chloropyridin-3-yl)methyl]cyanamide (JP 2003-26661 A, Compound 1)
Cyanogen bromide (220 mg, 2.09 mmol) was dissolved in 10 mL of anhydrous chloroform, and the solution was cooled to 0° C. To this was dropwise added a solution of 500 mg (3.49 mmol) of 2-chloro-5-aminomethylpyridine dissolved in 10 mL of anhydrous chloroform, and the resulting mixture was stirred at 0° C. for 1 hour. The reaction mixture was filtered, then water was added and liquid-liquid extraction was carried out, following which the chloroform phase was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The concentrate was purified by silica gel column chromatography (hexane/ethyl acetate=1:1), giving 122 mg (yield, 35%) of the target compound.

reactant | Cyanogen bromide | 2.09 mmol, 220 mg | N#CBr | CBrN
reactant | 2-chloro-5-aminomethylpyridine | 3.49 mmol, 500 mg | ClC1=NC=C(C=C1)CN | C6H7ClN2
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | N-[(6-chloropyridin-3-yl)methyl]cyanamide | ClC1=CC=C(C=N1)CNC#N | C7H6ClN3
